US07851626B2
rac-2-{4-[(4S*,5R*)-2-(4-tert-Butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-1-morpholin-4-yl-ethanone
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-2-(4-tert-butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 1-morpholin-4-yl-2-piperazin-1-yl-ethanone (Oakwood Products) to give the title compound. LC-MS: 720.3 [(M+H)+]

reactant | rac-(4S*,5R*)-2-(4-tert-butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride | C(C)(C)(C)C1=CC(=C(C=C1)C=1N(C(C(N1)(C)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C(=O)Cl)OCC | C29H29Cl3N2O2
reactant | 1-morpholin-4-yl-2-piperazin-1-yl-ethanone | N1(CCOCC1)C(CN1CCNCC1)=O | C10H19N3O2
product | rac-2-{4-[(4S*,5R*)-2-(4-tert-Butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-1-morpholin-4-yl-ethanone | C(C)(C)(C)C1=CC(=C(C=C1)C=1N([C@@H]([C@](N1)(C)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CC(=O)N1CCOCC1)OCC | C39H47Cl2N5O4
